US07897627B2
b) Step 2: 2-Chloro-4-fluoro-benzooxazole
To a solution of 560 mg (3.31 mmol) 4-fluoro-benzooxazole-2-thiol in 3.6 mL (49.65 mmol) thionyl chloride was added dropwise 60.3 □L N,N-dimethylformamide dry at room temperature. The mixture was stirred at room temperature for 2.5 h. The solvent was removed in vacuo. The crude compound was purified with flash column chromatography on silica eluting with a gradient formed from n-heptane and ethyl acetate to provide 434 mg (76.4%) of the title compound as a white solid. MS(m/e): 171 (M+H+).

reactant | 4-fluoro-benzooxazole-2-thiol | 3.31 mmol, 560 mg | FC1=CC=CC2=C1N=C(O2)S | C7H4FNOS
reactant | thionyl chloride | 49.65 mmol, 3.6 mL | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Chloro-4-fluoro-benzooxazole | 434 mg, 76.4% | ClC=1OC2=C(N1)C(=CC=C2)F | C7H3ClFNO
